US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]phenyl]-2,3,5-trichlorobenzamide
A mixture of 366 mg of 2,3,5-trichlorobenzoyl chloride and 151 mg of triethylamine in 2 ml of methylene chloride is stirred while 314 mg of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine in 5 ml of methylene chloride is added. Stirring is continued for 1.5 hours. The reaction mixture is partitioned with water and the organic layer is washed with 1N HCl, water, 0.5N NaOH and brine. The organic layer is dried with Na2 SO4 and passed through a pad of hydrous magnesium silicate. Hexane is added to the filtrate at the boil to give 0.52 g of white solid residue which is purified by column chromatography on silica gel by elution with 2:1 hexane-ethyl acetate to give 120 mg of the desired product as a crystalline solid, m.p. 225°-230° C.

reactant | 2,3,5-trichlorobenzoyl chloride | 366 mg | ClC1=C(C(=O)Cl)C=C(C=C1Cl)Cl | C7H2Cl4O
reactant | triethylamine | 151 mg | C(C)N(CC)CC | C6H15N
reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 314 mg | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]phenyl]-2,3,5-trichlorobenzamide | 0.52 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C(=CC(=C3)Cl)Cl)Cl)=O | C28H19Cl3N2O2
